US05688798
A solution of 13.5 g (0.050 mol) of 1-(3-chloro-phenyl)-piperazine in 500 ml of tetrahydrofuran was treated with 35 ml (0.25 mol) of triethylamine and 18.2 g (0.050 mol) of 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide and the mixture was stirred at room temperature under argon for 16 hours. The suspension obtained was suction filtered and the filtrate was completely freed from the solvents. The residue was chromatographed over silica gel with acetonitrile/methanol 1:1 as the eluent and digested in diethyl ether. 10 g (63%) of 5-[4-(3-chloro-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine were obtained as beige crystals; m.p. 222°-226°.

reactant | 1-(3-chloro-phenyl)-piperazine | 0.050 mol, 13.5 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | triethylamine | 0.25 mol, 35 ml | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-pyrimidine-2,4-diamine dihydrobromide | 0.050 mol, 18.2 g | Br.Br.BrCC=1C(=NC(=NC1)N)N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 5-[4-(3-chloro-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine | 10 g, 63% | ClC=1C=C(C=CC1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | C15H19ClN6
